US07414068B2
Preparation of (2R,3S,4R)-6-methanesulfonyloxy-4-[N-(4-chlorophenyl)-N-(2-methyl-2H-tetrazol-5-ylmethyl)amino]-3-hydroxy-2-methyl-2-dimethoxymethyl-3,4-dihydro-2H-1-benzopyran
The same procedure as step 3 of example 1 was accomplished, except for using (2R,3S,4S)-6-methane sulfonyloxy-2-methyl-2-dimethoxymethyl-3,4-epoxy-3,4-dihydro-2H-1-benzopyran (231 mg, 0.70 mmol) and N-(4-chlorophenyl)-N-(2-methyl-2H-tetrazol-5-ylmethyl)amine (187 mg, 0. 84 mmol). The crude product was purified by silica gel column chromatography (developing solvent-n-hexane:ethyl acetate=1:1), to give desired compound (104 mg, yield: 27%).

reactant | (2R,3S,4S)-6-methane sulfonyloxy-2-methyl-2-dimethoxymethyl-3,4-epoxy-3,4-dihydro-2H-1-benzopyran | 0.70 mmol, 231 mg | CS(=O)(=O)OC=1C=CC2=C([C@H]3[C@@H]([C@@](O2)(C(OC)OC)C)O3)C1 | C14H18O7S
reactant | N-(4-chlorophenyl)-N-(2-methyl-2H-tetrazol-5-ylmethyl)amine | 84 mmol, 187 mg | ClC1=CC=C(C=C1)NCC=1N=NN(N1)C | C9H10ClN5
product | (2R,3S,4R)-6-methanesulfonyloxy-4-[N-(4-chlorophenyl)-N-(2-methyl-2H-tetrazol-5-ylmethyl)amino]-3-hydroxy-2-methyl-2-dimethoxymethyl-3,4-dihydro-2H-1-benzopyran | 104 mg, yield: 27% | CS(=O)(=O)OC=1C=CC2=C([C@H]([C@@H]([C@@](O2)(C(OC)OC)C)O)N(CC=2N=NN(N2)C)C2=CC=C(C=C2)Cl)C1 | C23H28ClN5O7S
